US04882339
A suspension of 4-cyclohexylimino-1-oxo-2-methoxy-1,4-dihydronaphthalene in acetic anhydride is hydrogenated according to the procedure in Example 1 to obtain 4-cyclohexylamino-1-acetoxy-2-methoxynaphthalene, m.p. 134°-136° C.

reactant | 4-cyclohexylimino-1-oxo-2-methoxy-1,4-dihydronaphthalene | C1(CCCCC1)N=C1C=C(C(C2=CC=CC=C12)=O)OC | C17H19NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 4-cyclohexylamino-1-acetoxy-2-methoxynaphthalene | C1(CCCCC1)NC1=CC(=C(C2=CC=CC=C12)OC(C)=O)OC | C19H23NO3
